US07067658B2
To 10 mL of POCl3 was added 4-(2,4-dichloro-phenyl)-3-nitro-1H-pyridin-2-one (1.0 g, 3.51 mmol), followed by the addition of DMF (1-2 mL) and the reaction refluxed for 5 h. The reaction mixture was cooled to room temperature and poured over ice-H2O (200 mL). The solution was extracted with EtOAc, washed with H2O, brine, dried (MgSO4), filtered, and concentrated in vacuo to give 0.20 g (19%) of 2-chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine as a brown viscous oil: crude 1H NMR (300 MHz, CDCl3): δ 8.6 (d, 1H), 7.5 (s, 1H), 7.38 (s, 1H), 7.34 (d, 1H), 7.20 (d, 1H).

reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-(2,4-dichloro-phenyl)-3-nitro-1H-pyridin-2-one | 3.51 mmol, 1.0 g | ClC1=C(C=CC(=C1)Cl)C1=C(C(NC=C1)=O)[N+](=O)[O-] | C11H6Cl2N2O3
solvent | DMF | 1-2 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine | 0.20 g, 19% | ClC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C11H5Cl3N2O2
